2168-01-25 06:35:00 Physician Resident Progress Note
CCU Intern Progress Note:
   24 Hour Events:
   - stool studies sent (OP, fecal culture)
   - c.cath ([**2164**])- normal coronaries
   - afib w HR > 100, hypotensive (metoprolol, 250cc bolus)
 improved
   Breathing feels improved
   Increased appetite
   No further diarrhea on loperamide
   Allergies:
   Morphine
   Rash;
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2168-1-24**] 09:03 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2168-1-25**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 85 (78 - 112) bpm
   BP: 91/44(56) {80/35(48) - 122/65(71)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,182 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    942 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                    576 mL
                                                                    135 mL
   Urine:
                                                                    421 mL
                                                                    135 mL
   NG:
   Stool:
                                                                    155 mL
   Drains:
   Balance:
                                                                    607 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, JVP 8cm
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:  Crackles
   3/4 up the lung fields
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person place and time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   114 K/uL
   10.3 g/dL
   69 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   30 mg/dL
   106 mEq/L
   135 mEq/L
   29.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2168-1-24**]  03:41 AM
                             [**2168-1-24**]  06:30 PM
                             [**2168-1-25**]  05:45 AM
   WBC
   15.0
   13.1
   Hct
   31.6
   29.6
   Plt
   134
   114
   Cr
   1.4
   1.5
   1.5
   TropT
   0.02
   Glucose
   84
   69
   Other labs: PT / PTT / INR:19.0/71.3/1.8, CK / CKMB /
   Troponin-T://0.02, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Patient is a 78 F with htn, HL, pafib admitted from OSH for new
   cardiomyopathy (likely ICH), question of PNA, and diarrhea, now with
   submassive pulmonary embolism.
   # Pulmonary embolism - Unclear etiology, no LE DVT on Doppler. Hx of
   prior PE. Pt was at least temporarily subtheraputic on coumadin at OSH.
   Consider lysis should he develop end organ damage/hemodynamic
   instability.
   - Heparin gtt sliding scale, consider higher INR goal for lifelong
   coumadin vs lifelong lovenox.  Discuss options with family. Start
   coumadin today vs tomorrow depending on decision.
   - IV fluid boluses 250cc as needed for blood pressure
   -SPEP, UPEP pending for hypercoag w/u, per report pt [**Name (NI) 3796**] on age
   appropriate cancer screening.
   -No evidence LE clot, no IVC filter for now.
   -renal u/s ro eval kidneys for evidence mass, thrombus.
   #. Pump. New cardiomypathy.  Pt with EF of 30-50% in [**2167-12-26**], but repeat
   ECHO in [**1-14**] showed EF 20-30%. Patient diuresed from 204 to 193.6lbs at
   [**Location (un) **] with improvement in her dyspnea.  Fixed defects on
   echocardiogram suggest ischemic cardiomyopathy. Other possibilities
   include: infectious state given patient's recent pneumonia and chronic
   illness.  Less likely non-ischemic etilogies include rheumatologic,
   myeloma, Hepatitis, HIV and as a consequence of RV failure . Normal
   iron, only slightly increased TSH.  Need 9 months optimal medical
   therapy before possible consideration of ICD placement.
   - unlikely ischemic due to clean coronaries on cath here in [**2164**]
   - SPEP, UPEP pending
   - cont ASA, holding lisinopril, metoprolol and furosemide given concern
   for hypotension
   - No diuresis today given diarrhea and risk for low preload/low CO
   state. PRN 250 NS IVFboluses
   - CXR today
   #. Lung Infiltrates:  Appreciate pulmonary recommendations.  Patient's
   infiltrates may suggest chronic interstitial lung disease (related to
   methotrexate or rheumatoid arthritis) rather than pneumonia.
   - Nevertheless, given patient's recent complicated OSH ICU course, will
   complete antibiotic regimen and reassess
   - d/c abx, no evidence for acute infection, augmentin may be worsening
   diarrhea.
   - cont nebs prn
   - repeat CXR  as above
   #. Rhythm: Pt currently with NSR, has PAF.  Holding digoxin. Added back
   on low dose BB last night when she went back into AF with RVR with good
   response.
   - Continue heparin for AC.
   - Up titrate BB as tolerated
   - cont to monitor on telemetry
   # Renal failure. Cr 1.4 in [**2164**]; now 1.3. Currently improved from
   prior.
   - CHF compenstated but will hold diuretics for now
   - renally dose medications
   # Diarrhea: Pt reports diarrhea x ~ 2 weeks. Continues to have diarrhea
   here 4-5 episodes a day. Pt has had negative C. difficile x 3 , but was
   still started on flagyl for a total of a 10 day course.   Flagyl
   stopped last night.  Given concern for large PE and low preload,
   potentially low CO, low threshold to consider bowel ischemia should she
   decompensate or develop bloody diarrhea. Per pt and RN this am,
   diarrhea is better
   - Imodium x 1 dose
   - stool studies, including bacterial cultures, O&P  all negative
   -d/c augmentin as above.
   - replete lytes prn and hydration
   #. CAD: CE neg at OSH r/o for MI.  Focal wall-motion abnormalities
   suggest ischemic etiology.
   - Reportedly clean cath [**2164**], no plans to cath at present.
   - Cont ASA, Zocor.  Antihypertensives on hold.
   # HTN: Holding amlodipine, Imdur, lisinopril, given concern for
   hypotension.
   # Anemia: Pt with chronic anemia. Hct 34.8 today. Pt was given 2U at
   OSH. No evidence of active bleed. This is near his baseline.
   - will cont to trend
   # DM: will hold oral agents
   - monitor with QACHS FS and cover with ISS
   #. Depression: cont celexa, increased due to c/o depression
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2168-1-23**] 08:00 PM
   20 Gauge - [**2168-1-23**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: Call out to floor

2168-01-26 06:09:00 Physician Resident Progress Note
Chief Complaint: Pulmonary embolism
   24 Hour Events:
   - Family and pt prefer not to use Lovenox, so started Coumadin 2.5mg PO
   daily
   - CXR: appears unchanged on our prelim read, final pending
   - Renal u/s: no hydronephrosis, no masses
   - Scheduled outpt Heme/Onc appt for hypercoag workup
   Allergies:
   Morphine
   Rash;
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2168-1-24**] 09:03 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2168-1-25**] 08:07 PM
   Coumadin (Warfarin) - [**2168-1-25**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-1-26**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 78 (74 - 89) bpm
   BP: 103/34(51) {91/34(51) - 118/71(74)} mmHg
   RR: 14 (14 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,519 mL
                                                                    100 mL
   PO:
                                                                    900 mL
             TF:
   IVF:
                                                                    619 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    545 mL
                                                                     85 mL
   Urine:
                                                                    545 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    974 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Dry MM
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:  Crackles
   3/4 up R lung and to the apex on the L worse than yesterday
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, grossly non-focal
   Labs / Radiology
   160 K/uL
   10.0 g/dL
   88 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.1 mEq/L
   26 mg/dL
   106 mEq/L
   134 mEq/L
   29.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2168-1-24**]  03:41 AM
                             [**2168-1-24**]  06:30 PM
                             [**2168-1-25**]  05:45 AM
                             [**2168-1-26**]  03:09 AM
   WBC
   15.0
   13.1
   12.4
   Hct
   31.6
   29.6
   29.8
   Plt
   134
   114
   160
   Cr
   1.4
   1.5
   1.5
   1.4
   TropT
   0.02
   Glucose
   84
   69
   88
   Other labs: PT / PTT / INR:17.9/90.4/1.6, CK / CKMB /
   Troponin-T://0.02, ALT / AST:[**10-3**], Alk Phos / T Bili:50/0.5,
   Albumin:2.4 g/dL, LDH:231 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   Patient is a 78 F with htn, HL, pafib admitted from OSH for new
   cardiomyopathy (likely ICH), question of PNA, and diarrhea, now with
   submassive pulmonary embolism.
   # Pulmonary embolism - Unclear etiology, no LE DVT on Doppler. Hx of
   prior PE. Pt was at least temporarily subtheraputic on coumadin at OSH
   and per family likely missed some coumadin doses . Consider lysis
   should he develop end organ damage/hemodynamic instability.
   - Heparin gtt sliding scale, consider higher INR goal, 2.5-3, will need
   lifelong coumadin, restarted last evening.
   - IV fluid boluses 250cc as needed for blood pressure
   -SPEP, UPEP pending for hypercoag w/u, per report pt [**Name (NI) 3796**] on age
   appropriate cancer screening.
   -No evidence LE clot, no IVC filter for now.
   -renal u/s negative for renal mass, thrombus.
   #. Pump. New cardiomypathy.  Pt with EF of 30-50% in [**2167-12-26**], but repeat
   ECHO in [**1-14**] showed EF 20-30%. Patient diuresed from 204 to 193.6lbs at
   [**Location (un) **] with improvement in her dyspnea.  Fixed defects on
   echocardiogram suggest ischemic cardiomyopathy. Other possibilities
   include: infectious state given patient's recent pneumonia and chronic
   illness.  Less likely non-ischemic etilogies include rheumatologic,
   myeloma, Hepatitis, HIV and as a consequence of RV failure . Normal
   iron, only slightly increased TSH.  Need 9 months optimal medical
   therapy before possible consideration of ICD placement.
   - unlikely ischemic due to clean coronaries on cath here in [**2164**]
   - SPEP, UPEP pending
   - cont ASA, holding lisinopril, metoprolol and furosemide given concern
   for hypotension
   - No diuresis today given diarrhea and risk for low preload/low CO
   state. PRN 250 NS IVFboluses
   - CXR yesterday was unchanged.
   #. Lung Infiltrates:  Appreciate pulmonary recommendations.  Patient's
   infiltrates may suggest chronic interstitial lung disease (related to
   methotrexate or rheumatoid arthritis) rather than pneumonia.
   - d/c
d abx, given no evidence for acute infection, augmentin may have
   caused worsening diarrhea.
   - cont nebs prn
   - repeat CXR as above unchanged
   - f/u pulm as outpatient
   #. Rhythm: Pt currently with NSR, has PAF.  Holding digoxin. Added back
   on low dose BB last night when she went back into AF with RVR with good
   response.
   - Continue heparin for AC.
   - Up titrate BB as tolerated
   - cont to monitor on telemetry
   # Renal failure. Cr 1.4 in [**2164**]; now at baseline. Currently improved
   from prior.
   - CHF compenstated but will hold diuretics for now
   - renally dose medications
   # Diarrhea: Pt reports diarrhea x ~ 2 weeks. Continues to have diarrhea
   here 4-5 episodes a day. Pt has had negative C. difficile x 3 , but was
   still started on flagyl for a total of a 10 day course.   Flagyl
   stopped last night.  Given concern for large PE and low preload,
   potentially low CO, low threshold to consider bowel ischemia should she
   decompensate or develop bloody diarrhea. Per pt and RN this am,
   diarrhea is better
   - Imodium x 1 dose
   - stool studies, including bacterial cultures, O&P  all negative
   -d/c augmentin as above.
   - replete lytes prn and hydration
   - Prelim stool studies have fecal leukocytes
   #. CAD: CE neg at OSH r/o for MI.  Focal wall-motion abnormalities
   suggest ischemic etiology.
   - Reportedly clean cath [**2164**], no plans to cath at present.
   - Cont ASA, Zocor.  Antihypertensives on hold.
   # HTN: Holding amlodipine, Imdur, lisinopril, given concern for
   hypotension.
   # Anemia: Pt with chronic anemia. Hct 34.8 today. Pt was given 2U at
   OSH. No evidence of active bleed. This is near his baseline.
   - will cont to trend
   # DM: will hold oral agents
   - monitor with QACHS FS and cover with ISS
   #. Depression: cont celexa, increased due to c/o depression
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2168-1-23**] 08:00 PM
   20 Gauge - [**2168-1-23**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: c/o to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Physical Examination
   Firm mass left breast that patient reports is unchanged and has been
   attributed to prior implant.
   Medical Decision Making
   1. Recurrent pulmonary embolus in setting of subtherapeutic
   anticoagulation. Continue heparin and titrate coumadin to INR [**1-26**].
    Underlying etiology not known.
   2. Abnormal CXR and CT with question interstitial lung disease.
   Pulmonary following.
   3. Cardiomyopathy. No known CAD. No overt heart failure. Will plan
   repeat echo.
   Above discussed extensively with patient.
   Total time spent on patient care: 20 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2168-1-26**] 12:34 ------